US04870082
Preparation of 3-methylbenzoic acid (2-quinolinylmethyl-ene)hydrazide, Compound 4
A mixture of 3.3 gm (0.021 mole) of 2-quinolinecarboxaldehyde, 3.15 gm (0.021 mole) of m-toluic acid hydrazide and 150 ml of absolute ethanol is refluzed 10 hr. The hot solution is filtered then diluted with water until cloudy. The mixture is cooled to room temperature and then chilled. The solid is collected to give 2.2 gm (36%) of the title compound having a melting point of 187.5°-188° C. after recrystallizing from methylene chloride/diethyl ether.

reactant | 2-quinolinecarboxaldehyde | 0.021 mole, 3.3 gm | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | m-toluic acid hydrazide | 0.021 mole, 3.15 gm | C1(=CC(=CC=C1)C(=O)NN)C | C8H10N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-methylbenzoic acid (2-quinolinylmethyl-ene)hydrazide | 2.2 gm, 36% | N1=C(C=CC2=CC=CC=C12)C=NNC(C1=CC(=CC=C1)C)=O | C18H15N3O
